US04557753
Synthesis of 7-chloro-1-methyl-[1]-benzopyrano[2,3-c]pyrazol-4-on
1.38 g (0.01 mol) of potassium carbonate was added to 2.71 g (0.01 mol) of 4-(2,4-dichlorobenzoyl)-1-methyl-5-hydroxypyrazole dissolved in 20 ml of N,N-dimethylformamide, and the reaction mixture was stirred at 100°-120° C. for 5 hours. After cooling, the reaction mixture was poured into ice water, and extracted with chloroform. The chloroform layer was dried and the solvent was distilled off under reduced pressure to obtain a solid product. It was recrystallized from methanol to obtain 2.15 g of the title compound as colorless needle crystals (yield: 92%).

reactant | potassium carbonate | 0.01 mol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2,4-dichlorobenzoyl)-1-methyl-5-hydroxypyrazole | 0.01 mol, 2.71 g | ClC1=C(C(=O)C=2C=NN(C2O)C)C=CC(=C1)Cl | C11H8Cl2N2O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-1-methyl-[1]-benzopyrano[2,3-c]pyrazol-4-on | 2.15 g | ClC1=CC2=C(C(C3=C(N(N=C3)C)O2)=O)C=C1 | C11H7ClN2O2
